US04781927
To a stirred solution of 2 g (0.008 mol) of N-Cbz-2-aminoisobutyric acid in dry Cl(CH2)2Cl containing 1.9 g dicyclohexylcarbodiimide and 0.1 g dimethylaminopyridine (DMAP), all at 0° C., is added, via an addition funnel, 1.3 g of 2,2,5,5-tetramethylcyclopentanol dissolved in CH2Cl2. After stirring for 4 days, the mixture is filtered, and the filtrate is washed with 5% HCl (1×50 ml), saturated NaHCO3 (1×50 ml), and water (1×50 ml). The organic layer is separated, dried over MgSO4 and evaporated to yield N-Cbz-2-aminoisobutyric acid 2,2,5,5-tetramethylcyclopentyl ester.

reactant | N-Cbz-2-aminoisobutyric acid | 0.008 mol, 2 g | C(=O)(OCC1=CC=CC=C1)NC(C(=O)O)(C)C | C12H15NO4
reactant | dimethylaminopyridine | 0.1 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 2,2,5,5-tetramethylcyclopentanol | 1.3 g | CC1(C(C(CC1)(C)C)O)C | C9H18O
solvent | Cl(CH2)2Cl | 1.9 g | ClCCCl | C2H4Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-Cbz-2-aminoisobutyric acid 2,2,5,5-tetramethylcyclopentyl ester | CC1(C(C(CC1)(C)C)OC(C(C)(C)NC(=O)OCC1=CC=CC=C1)=O)C | C21H31NO4
